US09340513B2
4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((R)-1-(3-Chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid
To a solution of 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((R)-1-(3-chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate (400 mg, 0.489 mmol) in DCM (10 mL) that was stirred at room temp was then added TFA (5 mL, 64.9 mmol). The reaction mixture was stirred at 30° C. for 2 h. The mixture was evaporated to dryness then diluted with 200 mL DCM. The organic phase was washed with saturated NaHCO3, water and brine. The organics were dried and concentrated under reduced pressure to afford crude product which was purified by preparative-HPLC to afford the title compound (100 mg, 27%) as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ=7.38-7.14 (m, 4H), 6.96 (d, J=15.8 Hz, 1H), 6.25 (d, J=7.8 Hz, 1H), 5.73 (d, J=15.6 Hz, 1H), 5.23-5.08 (m, 1H), 4.50 (dd, J=5.4, 10.7 Hz, 1H), 3.27-3.11 (m, 1H), 2.82-2.49 (m, 3H), 2.33-2.19 (m, 1H), 2.19-2.00 (m, 2H), 2.00-0.71 (m, 47H); LC/MS: m/z calculated 761.4. Found 762.2 (M+1)+.

reactant | 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((R)-1-(3-chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 0.489 mmol, 400 mg | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)\C=C\C(=O)N[C@H](C)C5=CC(=CC=C5)Cl)C)C)(C)C)C | C50H72ClNO6
reactant | TFA | 64.9 mmol, 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((R)-1-(3-Chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid | 100 mg, 27% | ClC=1C=C(C=CC1)[C@@H](C)NC(/C=C/[C@]12C([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)OC(CC(C(=O)O)(C)C)=O)C)=C(C(C2)=O)C(C)C)=O | C46H64ClNO6
